US09278931B2
A) tert-butyl(cyclopropylmethyl)[trans-2-(4-{[(1-methyl-1H-pyrazol-4-yl)carbonyl]amino}phenyl)cyclopropyl]carbamate
To a solution of tert-butyl [trans-2-(4-aminophenyl)cyclopropyl](cyclopropylmethyl)carbamate (85.8 mg) and 1-methyl-1H-pyrazole-4-carboxylic acid (42.9 mg) in DMF (1.42 mL) was added N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (82 mg). The mixture was stirred at room temperature overnight, and poured into water. The mixture was extracted with ethyl acetate, and the extract was washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (114.8 mg).

reactant | tert-butyl [trans-2-(4-aminophenyl)cyclopropyl](cyclopropylmethyl)carbamate | 85.8 mg | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)N(C(OC(C)(C)C)=O)CC1CC1 | C18H26N2O2
reactant | 1-methyl-1H-pyrazole-4-carboxylic acid | 42.9 mg | CN1N=CC(=C1)C(=O)O | C5H6N2O2
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 82 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | water | O | H2O
solvent | DMF | 1.42 mL | CN(C)C=O | C3H7NO
product | tert-butyl(cyclopropylmethyl)[trans-2-(4-{[(1-methyl-1H-pyrazol-4-yl)carbonyl]amino}phenyl)cyclopropyl]carbamate | 114.8 mg | C(C)(C)(C)OC(N([C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C=1C=NN(C1)C)CC1CC1)=O | C23H30N4O3
